US06992087B2
Preparation of methyl (3R,4S)-3-[(5-bromo-3,6-diethylpyrazin-2-yl)amino]-4-(2-fluoroethoxy)pyrrolidine-1-carboxylate
Following the procedure for the preparation of (1R,2S)-1-[(5-bromo-3,6-diethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol but substituting methyl (3R,4S)-3-[(3,6-diethylpyrazin-2-yl)amino]-4-(2-fluoroethoxy)pyrrolidine-1-carboxylate and making non-critical variations provided the title compound as a oil: 1H NMR (400 MHz, DMSO-d6) δ) 6.12, 4.49, 4.37, 4.21, 3.69-3.39, 2.71-2.55, 1.20-1.12; IR (liq.) 2973 (s), 2957, 2068 (b), 1996, 1705 (s), 1561 (s), 1541 (s), 1481 (s), 1454 (s), 1392 (s), 1191 (s), 1175, 1140 (s), 1114 (s), 1048, cm−1, HRMS (FAB) calcd for C16H24BrFN4O3+H 419.1094, found 419.1112. Anal. Calcd for C16H24BrFN4O3: C, 45.83; H, 5.77; N, 13.36. Found: C, 45.49; H, 5.81; N, 13.03.

reactant | (1R,2S)-1-[(5-bromo-3,6-diethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol | BrC=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)O)CC | C17H20BrN3O
reactant | methyl (3R,4S)-3-[(3,6-diethylpyrazin-2-yl)amino]-4-(2-fluoroethoxy)pyrrolidine-1-carboxylate | C(C)C=1C(=NC(=CN1)CC)N[C@@H]1CN(C[C@@H]1OCCF)C(=O)OC | C16H25FN4O3
product | methyl (3R,4S)-3-[(5-bromo-3,6-diethylpyrazin-2-yl)amino]-4-(2-fluoroethoxy)pyrrolidine-1-carboxylate | BrC=1N=C(C(=NC1CC)N[C@@H]1CN(C[C@@H]1OCCF)C(=O)OC)CC | C16H24BrFN4O3
